US08431695B2
Preparation of 3-[7-(1-acetylpiperidin-4-yl)-4-aminopyrrolo[2,1-f][1,2,4]triazin-5-yl]-N-benzylbenzamide
In a manner similar to the procedure described for the preparation of Example 331 and using 3-(4-amino-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-5-yl)-N-benzylbenzamide and acetyl chloride as starting material, 20 mg (26.0%) of the desired product was isolated. 1H NMR (400 MHz, CD3OD) δ 7.98 (s, 1H), 7.88-7.82 (m 2H), 7.62 (d, 1H), 7.55 (t, 1H), 7.36-7.28 (m, 4H), 7.25-7.20 (m, 1H), 6.58 (s, 1H), 4.67-4.59 (m, 3H), 4.06-3.98 (m, 1H), 3.52-3.43 (m, 1H), 3.33-3.24 (m, 1H), 2.78 (td, 1H), 2.20-2.08 (m, 5H), 1.73-1.63 (m, 2H); LC-MS m/z [M+H]+469.3, RT 2.34 min.

reactant | 3-(4-amino-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-5-yl)-N-benzylbenzamide | NC1=NC=NN2C1=C(C=C2C2CCNCC2)C=2C=C(C(=O)NCC1=CC=CC=C1)C=CC2 | C25H26N6O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 3-[7-(1-acetylpiperidin-4-yl)-4-aminopyrrolo[2,1-f][1,2,4]triazin-5-yl]-N-benzylbenzamide | 20 mg, 26.0% | C(C)(=O)N1CCC(CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=C(C(=O)NCC1=CC=CC=C1)C=CC2 | C27H28N6O2
